US05998666
N-cyclohepty-5-[benzyl(2-hydroxyethyl)amino]pentanamide (VII, R=cycloheptyl)
N-cycloheptyl-5-bromopentanamide (4.15 g, 15 mmole) in solution in dimethylformamide (20 ml) is added dropwise to a hot solution (60° C.) of N-benzylethanolamine (2.27 g, 2.13 ml, 15 mmole) in dimethylformamide (25 ml) in the presence of potassium carbonate (4.15 g, 3 mmole). The reaction mixture is agitated for 2 hours at 60° C. then the solvent is evaporated under reduced pressure. The residue is taken up in dichloromethane (50 ml) and washed with water (3×30 ml). The organic phase is collected, dried over magnesium sulfate; the solvent is evaporated under reduced pressure. The product obtained is purified by flash chromatography over silica gel in a mixture of dichloromethane/methanol (90/10) to give 3.04 g (50%) of the expected compound in the form of an oil.

reactant | N-cycloheptyl-5-bromopentanamide | 15 mmole, 4.15 g | C1(CCCCCC1)NC(CCCCBr)=O | C12H22BrNO
reactant | N-benzylethanolamine | 15 mmole, 2.13 ml, 2.27 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | potassium carbonate | 3 mmole, 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N-cyclohepty-5-[benzyl(2-hydroxyethyl)amino]pentanamide | 3.04 g, 50% | C1(CCCCCC1)NC(CCCCN(CCO)CC1=CC=CC=C1)=O | C21H34N2O2
